US04340740
314 mg of alpha-(p-tolylthio)-alpha-(m-benzoylphenyl)propionitrile was dissolved in 1 ml of methanol, and 1.0 ml of a 2.3 M methanol solution of sodium methanethiolate was added dropwise. The mixture was stirred at room temperature for 1 hour. An aqueous solution of ammonium chloride (1 g/5 ml) was added, and the mixture was extracted with 10 ml of ether three times. The extract was washed with 15 ml of water three times, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene and methylene chloride) to afford 133 mg (yield 64%) of alpha-(m-benzoylphenyl)-propionitrile as colorless crystals.

reactant | alpha-(p-tolylthio)-alpha-(m-benzoylphenyl)propionitrile | 314 mg | C1(=CC=C(C=C1)SC(C#N)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C23H19NOS
reactant | sodium methanethiolate | C[S-].[Na+]
reactant | ammonium chloride | 5 ml, 1 g | [Cl-].[NH4+]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.3 M | CO | CH4O
product | alpha-(m-benzoylphenyl)-propionitrile | 133 mg, yield 64% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)C | C16H13NO
